US05155268
1-[2-[4-((Methylsulfonyl)amino)phenyl]ethyl]-hexahydro-1H-azepine, Chart IV; Step IV
The amide, Hexahydro-1-[4-(methylsulfonylamino)phenylacetyl]-1H-azepine from Preparation 21 (2.8 g, 9.03 mmol) is reduced with 1.1 g of lithium aluminum hydride in 100 ml of tetrahydrofuran for 2 days at room temperature. The suspension is cooled; a saturated solution of sodium potassium tartrate is carefully added and then water. The solids are filtered and washed with tetrahydrofuran. The combined filtrates are evaporated. The residue is suspended in sodium bicarbonate and extracted with methylene chloride. The organic layer is washed with water, dried and evaporated. The residue is chromatographed on silica gel eluting 10% methanol-0.5% ammonium hydroxide-methylene chloride to yield the title compound, an oil. The MS had M/Z 296 (M+).

reactant | Hexahydro-1-[4-(methylsulfonylamino)phenylacetyl]-1H-azepine | CS(=O)(=O)NC1=CC=C(C=C1)CC(=O)N1CCCCCC1 | C15H22N2O3S
reactant | lithium aluminum hydride | 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-[2-[4-((Methylsulfonyl)amino)phenyl]ethyl]-hexahydro-1H-azepine | CS(=O)(=O)NC1=CC=C(C=C1)CCN1CCCCCC1 | C15H24N2O2S
